US05006520
In 15 ml of dimethylformamide were suspended 5.3 g of 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-indazole, 2.5 g of 3-dimethylaminopropylchloride and 2.7 g of potassium carbonate. The mixture was stirred at 100° C. for 4 hours, and then it was extracted with toluene-water. After the organic layer was concentrated, maleic acid was added to the residue to obtain the salt. The obtained crude crystals were recrystallized from ethyl acetate to give 5.0 g of 3-(4-fluorophenyl)-1-[3-(3-dimethylaminopropoxy)phenyl]-1H-indazole·maleate, m.p. 110°-112° C.

reactant | 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-indazole | 5.3 g | FC1=CC=C(C=C1)C1=NN(C2=CC=CC=C12)C1=CC(=CC=C1)O | C19H13FN2O
reactant | 3-dimethylaminopropylchloride | 2.5 g | CN(CCCCl)C | C5H12ClN
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(4-fluorophenyl)-1-[3-(3-dimethylaminopropoxy)phenyl]-1H-indazole·maleate | 5.0 g | FC1=CC=C(C=C1)C1=NN(C2=CC=CC=C12)C1=CC(=CC=C1)OCCCN(C)C.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C24H24FN3O.C4H4O4/c1-27(2)15-6-16-29-21-8-5-7-20(17-21)28-23-10-4-3-9-22(23)24(26-28)18-11-13-19(25)14-12-18;5-3(6)1-2-4(7)8/h3-5,7-14,17H,6,15-16H2,1-2H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
